US05449676
14 g (46 mmol) of 3-chloro-6-(3-cyclopentyloxy-4-methoxyphenyl)pyridazine are heated in 74 g (0.69 mol) of benzylamine at 200° C. for 3 hours. The mixture is subsequently poured onto ice and extracted with dichloromethane, and the organic phase is dried with potassium carbonate and then concentrated. Petroleum ether (b.p. 50°-70° C.) is added to the residue, and the resulting precipitate is filtered off with suction and crystallized from ethyl acetate/cyclohexane. 15.9 g (92.4%) of 3-benzylamino-6-(3-cyclopentyloxy-4-methoxyphenyl)pyridazine of m.p. 116° C. are obtained.

reactant | 3-chloro-6-(3-cyclopentyloxy-4-methoxyphenyl)pyridazine | 46 mmol, 14 g | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C16H17ClN2O2
reactant | benzylamine | 0.69 mol, 74 g | C(C1=CC=CC=C1)N | C7H9N
product | 3-benzylamino-6-(3-cyclopentyloxy-4-methoxyphenyl)pyridazine | 15.9 g, 92.4% | C(C1=CC=CC=C1)NC=1N=NC(=CC1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C23H25N3O2
